US03997584
N-Benzyloxycarbonyl-2-n-butoxyglycine n-butyl ester
A solution of 3.0 g. (0.02 mol.) of benzyl carbamate 1.8 g. (0.02 mol.) of glyoxylic acid hydrate and 0.1 g. of toluenesulfonic acid in 50 ml. of n-butanol was slowly distilled over a 1 hour period. The last of the solvent was removed in vacuo to give a residue which was dissolved in hexane and filtered to remove the p-toluenesulfonic acid. The filtrate was chromatographed on alumina (Woelm, activity II) and eluted with hexane. Concentration of the eluate in vacuo and molecular distillation of the residue at 130°/0.1 mm. gave the title compound.

reactant | benzyl carbamate | 0.02 mol, 1.8 g | C(N)(OCC1=CC=CC=C1)=O | C8H9NO2
reactant | glyoxylic acid hydrate | 0.02 mol | O.C(C=O)(=O)O
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | hexane | CCCCCC | C6H14
product | N-Benzyloxycarbonyl-2-n-butoxyglycine n-butyl ester | C(CCC)OC(C(NC(=O)OCC1=CC=CC=C1)OCCCC)=O | C18H27NO5
